US08865736B2
3-(5-Allyl-benzothiazol-2-ylmethoxy)-2,6-difluoro-benzamide
To a solution of 3-(5-bromo-benzothiazol-2-ylmethoxy)-2,6-difluoro-benzamide (0.1 g, 0.025 mol) in 5 ml of anhydrous DMF was added Allyl tributyltin (0.083 g, 0.025 mol) and degassed the reaction mixture for the 10 minutes. Tetrakis(triphenylphosphine)Palladium (0) (0.029 g, 0.0025 mol) was added and again degassed for 10 min. The reaction mixture was heated at 120° C. for 1 h under the nitrogen atmosphere, then cooled to r.t. Water was added to the reaction mixture and extracted with ethyl acetate, The combined organic layers were dried over anhydrous Na2SO4, and evaporated to dryness under reduced pressure. The compound was crystallized with ethyl acetate/hexane to give the title compound as brown solid (0.050 g, 55%). 1H NMR (DMSO-d6, 400 MHz): δ 3.52 (d, 2H, J=6.4 Hz), 5.07-5.13 (m, 1H) 5.68 (s, 2H) 5.98-6.05 (m, 1H), 7.10 (dt, 1H, J=8.4 Hz (o-coupling), 7.31 (d, 1H, J=8.4 Hz (o-coupling), 7.38 (dt, 1H, J=9.2 Hz (o-coupling), J=5.2 Hz), 7.83 (s, 1H), 7.89 (broad s, 1H), 8.05 (d, 1H, J=8.4 Hz (o-coupling), 8.17 (broad s, 1H) MS ES+ (361.05), HPLC (method 5) Rt=16.74 min.

reactant | 3-(5-bromo-benzothiazol-2-ylmethoxy)-2,6-difluoro-benzamide | 0.025 mol, 0.1 g | BrC=1C=CC2=C(N=C(S2)COC=2C(=C(C(=O)N)C(=CC2)F)F)C1 | C15H9BrF2N2O2S
reactant | Allyl tributyltin | 0.025 mol, 0.083 g | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
catalyst | Tetrakis(triphenylphosphine)Palladium | 0.0025 mol, 0.029 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-Allyl-benzothiazol-2-ylmethoxy)-2,6-difluoro-benzamide | 0.050 g, 55% | C(C=C)C=1C=CC2=C(N=C(S2)COC=2C(=C(C(=O)N)C(=CC2)F)F)C1 | C18H14F2N2O2S
